R1 ( net18 net56)  R=6.6E1
T2 ( net56 net126 0 0)  nfet  L=9.53E-6 W=1.49E-6
T3 ( 0 net126 0 0)  nfet  L=9.53E-6 W=1.49E-6
T4 ( vdd! net56 net126 0)  nfet  L=9.53E-6 W=1.49E-6
T5 (net77 net147 net147 0) pfet L=1.96E-6 W=5.69E-6
R6 (vdd! net250) R=5.1E5
C7 (net87 net262) C=9.5E-11
T8 (net244 net197 net197 0) nfet L=3.27E-6 W=4.39E-6
R9 ( net257 net207)  R=7.0E0
T10 ( net207 net253 0 0)  nfet  L=9.05E-6 W=6.38E-6
T11 ( net9 net253 0 0)  nfet  L=9.05E-6 W=6.38E-6
T12 ( net183 net207 net9 0)  nfet  L=9.05E-6 W=6.38E-6
C13 (net271 net10) C=4.8E-13
R14 (net142 net118) R=2.2E1
R15 ( net185 net252)  R=5.6E3
T16 ( net252 net4 vdd! vdd!)  pfet  L=7.90E-6 W=6.49E-6
T17 ( net258 net4 vdd! vdd!)  pfet  L=7.90E-6 W=6.49E-6
T18 ( 0 net252 net4 vdd!)  pfet  L=7.90E-6 W=6.49E-6
C19 (0 net22) C=2.5E-7
R20 ( net137 net189)  R=7.0E0
T21 ( net189 net189 net247 0)  nfet  L=4.42E-6 W=9.37E-6
T22 ( net247 net34 0 0)  nfet  L=4.42E-6 W=9.37E-6
T23 ( net34 net34 0 0)  nfet  L=4.42E-6 W=9.37E-6
T24 ( net246 net189 net34 0)  nfet  L=4.42E-6 W=9.37E-6
T25 (net270 net45 net45 0) nfet L=4.25E-6 W=6.71E-6
T26 (net82 net107 net107 0) pfet L=1.14E-6 W=9.60E-6
R27 ( net155 net187)  R=3.3E2
T28 ( net187 net187 net87 0)  nfet  L=3.34E-6 W=2.47E-6
T29 ( net87 net13 0 0)  nfet  L=3.34E-6 W=2.47E-6
T30 ( net13 net13 0 0)  nfet  L=3.34E-6 W=2.47E-6
T31 ( net133 net187 net13 0)  nfet  L=3.34E-6 W=2.47E-6
T32 (vdd! net274 net274 0) pfet L=5.28E-6 W=2.42E-6
R33 ( 0 net165)  R=5.8E4
T34 ( net165 net51 vdd! vdd!)  pfet  L=0.37E-6 W=2.15E-6
T35 ( net166 net51 vdd! vdd!)  pfet  L=0.37E-6 W=2.15E-6
T36 ( 0 net165 net51 vdd!)  pfet  L=0.37E-6 W=2.15E-6
R37 (net62 net27) R=2.6E5
R38 ( net216 net143)  R=8.6E3
T39 ( net143 net31 0 0)  nfet  L=9.10E-6 W=9.59E-6
T40 ( net17 net31 0 0)  nfet  L=9.10E-6 W=9.59E-6
T41 ( vdd! net143 net31 0)  nfet  L=9.10E-6 W=9.59E-6
T42 (vdd! net239 net239 0) nfet L=8.11E-6 W=3.92E-6
R43 ( net44 net74)  R=7.9E5
T44 ( net74 net191 vdd! vdd!)  pfet  L=1.03E-6 W=2.85E-6
T45 ( net248 net191 vdd! vdd!)  pfet  L=1.03E-6 W=2.85E-6
T46 ( net219 net74 net248 vdd!)  pfet  L=1.03E-6 W=2.85E-6
R47 (net178 net82) R=7.9E2
T48 (net160 net275 net275 0) nfet L=3.30E-6 W=7.79E-6
T49 (net233 vdd! vdd! 0) nfet L=1.98E-6 W=2.22E-6
C50 (net58 net161) C=5.2E-8
R51 (net6 net272) R=9.8E5
R52 ( 0 net156)  R=4.8E3
T53 ( net156 net156 vdd! vdd!)  pfet  L=0.46E-6 W=6.48E-6
T54 ( net44 net156 vdd! vdd!)  pfet  L=0.46E-6 W=6.48E-6
T55 (net15 net95 net95 0) pfet L=7.62E-6 W=7.23E-6
T56 (net173 net65 net65 0) nfet L=5.00E-6 W=9.56E-6
R57 ( net276 net45)  R=0.1E2
T58 ( net45 net45 net114 vdd!)  pfet  L=7.82E-6 W=9.52E-6
T59 ( net114 net58 vdd! vdd!)  pfet  L=7.82E-6 W=9.52E-6
T60 ( net58 net58 vdd! vdd!)  pfet  L=7.82E-6 W=9.52E-6
T61 ( net132 net45 net58 vdd!)  pfet  L=7.82E-6 W=9.52E-6
R62 (net41 net205) R=2.2E2
R63 ( net54 net177)  R=5.4E4
T64 ( net177 net177 net277 vdd!)  pfet  L=5.90E-6 W=2.46E-6
T65 ( net277 net105 vdd! vdd!)  pfet  L=5.90E-6 W=2.46E-6
T66 ( net105 net105 vdd! vdd!)  pfet  L=5.90E-6 W=2.46E-6
T67 ( net75 net177 net105 vdd!)  pfet  L=5.90E-6 W=2.46E-6
C68 (vdd! net266) C=7.1E-11
R69 ( net65 net42)  R=4.1E0
T70 ( net42 net42 0 0)  nfet  L=1.15E-6 W=5.39E-6
T71 ( vdd! net42 0 0)  nfet  L=1.15E-6 W=5.39E-6
T72 (net220 net15 net15 0) pfet L=3.20E-6 W=5.34E-6
C73 (0 net137) C=1.1E-14
R74 ( net271 net28)  R=3.2E4
T75 ( net28 net98 vdd! vdd!)  pfet  L=9.45E-6 W=6.58E-6
T76 ( net95 net98 vdd! vdd!)  pfet  L=9.45E-6 W=6.58E-6
T77 ( net77 net28 net95 vdd!)  pfet  L=9.45E-6 W=6.58E-6
C78 (net257 net181) C=6.8E-13
C79 (net21 net3) C=5.5E-5
R80 ( net94 net96)  R=8.8E1
T81 ( net96 net150 0 0)  nfet  L=1.03E-6 W=5.94E-6
T82 ( net203 net150 0 0)  nfet  L=1.03E-6 W=5.94E-6
T83 ( net130 net96 net203 0)  nfet  L=1.03E-6 W=5.94E-6
T84 (net70 net112 net112 0) nfet L=7.65E-6 W=2.39E-6
T85 ( net100 net100 0 0)  nfet  L=1.08E-6 W=4.25E-6
T86 ( net134 net100 0 0)  nfet  L=1.08E-6 W=4.25E-6
R87 ( net134 net176)  R=2.7E1
T88 (net210 net175 net175 0) nfet L=1.81E-6 W=5.75E-6
T89 (net163 net188 net188 0) pfet L=1.08E-6 W=1.31E-6
R90 ( vdd! net166)  R=1.2E1
T91 ( net166 net101 0 0)  nfet  L=1.02E-6 W=9.76E-6
T92 ( net214 net101 0 0)  nfet  L=1.02E-6 W=9.76E-6
T93 ( net111 net166 net214 0)  nfet  L=1.02E-6 W=9.76E-6
T94 (net130 net3 net3 0) nfet L=1.13E-6 W=1.17E-6
T95 ( net160 net160 0 0)  nfet  L=2.02E-6 W=8.95E-6
T96 ( net148 net160 0 0)  nfet  L=2.02E-6 W=8.95E-6
R97 ( net148 net244)  R=9.6E5
T98 (net102 net127 net127 0) nfet L=3.55E-6 W=7.91E-6
T99 ( net146 net146 vdd! vdd!)  pfet  L=1.88E-6 W=3.63E-6
T100 ( net142 net146 vdd! vdd!)  pfet  L=1.88E-6 W=3.63E-6
R101 ( net142 vdd!)  R=6.0E2
T102 (vdd! vdd! vdd! 0) nfet L=1.34E-6 W=4.13E-6
C103 (net55 net102) C=7.4E-12
T104 ( net215 net215 0 0)  nfet  L=0.69E-6 W=8.83E-6
T105 ( net119 net215 0 0)  nfet  L=0.69E-6 W=8.83E-6
R106 ( net119 net237)  R=9.1E2
T107 (net278 net108 net108 0) nfet L=1.91E-6 W=3.09E-6
R108 ( net127 net104)  R=8.9E6
T109 ( net104 net104 vdd! vdd!)  pfet  L=1.79E-6 W=3.80E-6
T110 ( net47 net104 vdd! vdd!)  pfet  L=1.79E-6 W=3.80E-6
R111 (vdd! net131) R=0.5E4
R112 ( net184 net90)  R=4.6E2
T113 ( net90 net90 net246 vdd!)  pfet  L=7.04E-6 W=5.01E-6
T114 ( net246 net204 vdd! vdd!)  pfet  L=7.04E-6 W=5.01E-6
T115 ( net204 net204 vdd! vdd!)  pfet  L=7.04E-6 W=5.01E-6
T116 ( net29 net90 net204 vdd!)  pfet  L=7.04E-6 W=5.01E-6
C117 (net63 net68) C=4.3E-8
R118 (net18 net76) R=3.7E4
C119 (net85 vdd!) C=3.5E-5
T120 (net70 net116 net116 0) nfet L=0.63E-6 W=2.58E-6
R121 (net244 net263) R=7.1E5
T122 ( net240 net240 vdd! vdd!)  pfet  L=7.21E-6 W=2.46E-6
T123 ( net66 net240 vdd! vdd!)  pfet  L=7.21E-6 W=2.46E-6
R124 ( net66 net258)  R=5.3E3
T125 (net116 net86 net86 0) nfet L=5.74E-6 W=5.19E-6
T126 (net125 net77 net77 0) pfet L=6.50E-6 W=9.26E-6
R127 ( vdd! net25)  R=5.7E4
T128 ( net25 net17 0 0)  nfet  L=9.03E-6 W=0.50E-6
T129 ( vdd! net17 0 0)  nfet  L=9.03E-6 W=0.50E-6
T130 ( vdd! net25 net17 0)  nfet  L=9.03E-6 W=0.50E-6
R131 (net118 net48) R=0.9E2
T132 (net154 net136 net136 0) nfet L=1.66E-6 W=6.01E-6
R133 ( 0 net280)  R=5.9E5
T134 ( net280 net53 0 0)  nfet  L=6.70E-6 W=1.34E-6
T135 ( net59 net53 0 0)  nfet  L=6.70E-6 W=1.34E-6
T136 ( vdd! net280 net53 0)  nfet  L=6.70E-6 W=1.34E-6
R137 (vdd! net135) R=8.3E2
T138 (net77 net71 net71 0) pfet L=0.72E-6 W=5.63E-6
C139 (net153 net195) C=1.6E-8
R140 ( 0 net112)  R=8.4E1
T141 ( net112 net116 0 0)  nfet  L=3.61E-6 W=2.83E-6
T142 ( net129 net116 0 0)  nfet  L=3.61E-6 W=2.83E-6
T143 ( vdd! net112 net116 0)  nfet  L=3.61E-6 W=2.83E-6
R144 (net266 net11) R=3.0E1
R145 ( net158 net77)  R=8.5E6
T146 ( net77 net192 vdd! vdd!)  pfet  L=8.95E-6 W=6.11E-6
T147 ( net78 net192 vdd! vdd!)  pfet  L=8.95E-6 W=6.11E-6
T148 ( 0 net77 net192 vdd!)  pfet  L=8.95E-6 W=6.11E-6
R149 (net70 net186) R=3.8E0
T150 (net152 vdd! vdd! 0) pfet L=8.47E-6 W=2.95E-6
R151 ( net231 net86)  R=3.9E4
T152 ( net86 net259 vdd! vdd!)  pfet  L=0.80E-6 W=6.28E-6
T153 ( net73 net259 vdd! vdd!)  pfet  L=0.80E-6 W=6.28E-6
T154 ( net278 net86 net73 vdd!)  pfet  L=0.80E-6 W=6.28E-6
R155 (net227 net162) R=6.2E5
R156 ( net242 net130)  R=7.2E6
T157 ( net130 net198 0 0)  nfet  L=9.44E-6 W=5.85E-6
T158 ( net238 net198 0 0)  nfet  L=9.44E-6 W=5.85E-6
T159 ( vdd! net130 net198 0)  nfet  L=9.44E-6 W=5.85E-6
C160 (net212 net55) C=2.3E-13
T161 (net76 net209 net209 0) pfet L=3.56E-6 W=3.82E-6
C162 (net161 net273) C=9.2E-8
R163 (net223 net243) R=3.3E1
R164 (net161 net10) R=2.1E3
R165 ( 0 net242)  R=9.3E2
T166 ( net242 net242 vdd! vdd!)  pfet  L=6.88E-6 W=3.00E-6
T167 ( net182 net242 vdd! vdd!)  pfet  L=6.88E-6 W=3.00E-6
T168 (net237 net121 net121 0) pfet L=5.05E-6 W=3.16E-6
T169 (net233 net145 net145 0) pfet L=5.82E-6 W=8.11E-6
T170 ( net108 net108 0 0)  nfet  L=2.74E-6 W=7.47E-6
T171 ( net22 net108 0 0)  nfet  L=2.74E-6 W=7.47E-6
R172 ( net22 net232)  R=6.5E2
C173 (net79 net7) C=9.5E-9
R174 (net61 net258) R=9.5E1
R175 ( net26 net15)  R=9.9E3
T176 ( net15 net271 vdd! vdd!)  pfet  L=9.11E-6 W=0.87E-6
T177 ( net180 net271 vdd! vdd!)  pfet  L=9.11E-6 W=0.87E-6
T178 ( net102 net15 net180 vdd!)  pfet  L=9.11E-6 W=0.87E-6
C179 (net50 net210) C=1.5E-13
T180 (net235 vdd! vdd! 0) nfet L=1.23E-6 W=9.13E-6
R181 ( net263 net193)  R=3.0E0
T182 ( net193 net193 net172 0)  nfet  L=1.86E-6 W=6.56E-6
T183 ( net172 net235 0 0)  nfet  L=1.86E-6 W=6.56E-6
T184 ( net235 net235 0 0)  nfet  L=1.86E-6 W=6.56E-6
T185 ( vdd! net193 net235 0)  nfet  L=1.86E-6 W=6.56E-6
R186 (net129 net99) R=9.3E3
R187 ( 0 net12)  R=0.8E5
T188 ( net12 net12 net227 vdd!)  pfet  L=7.92E-6 W=3.79E-6
T189 ( net227 net160 vdd! vdd!)  pfet  L=7.92E-6 W=3.79E-6
T190 ( net160 net160 vdd! vdd!)  pfet  L=7.92E-6 W=3.79E-6
T191 ( net230 net12 net160 vdd!)  pfet  L=7.92E-6 W=3.79E-6
T192 (net145 vdd! vdd! 0) nfet L=3.03E-6 W=8.53E-6
T193 (net170 net72 net72 0) nfet L=9.99E-6 W=1.02E-6
R194 ( net103 net33)  R=9.7E5
T195 ( net33 net256 vdd! vdd!)  pfet  L=0.86E-6 W=9.21E-6
T196 ( net47 net256 vdd! vdd!)  pfet  L=0.86E-6 W=9.21E-6
T197 ( 0 net33 net256 vdd!)  pfet  L=0.86E-6 W=9.21E-6
T198 (net67 net97 net97 0) pfet L=3.66E-6 W=7.96E-6
R199 ( net176 net136)  R=5.0E6
T200 ( net136 net136 0 0)  nfet  L=0.40E-6 W=6.68E-6
T201 ( 0 net136 0 0)  nfet  L=0.40E-6 W=6.68E-6
T202 (net262 net274 net274 0) nfet L=5.63E-6 W=0.90E-6
R203 ( 0 net244)  R=2.2E3
T204 ( net244 net79 vdd! vdd!)  pfet  L=9.86E-6 W=7.20E-6
T205 ( net262 net79 vdd! vdd!)  pfet  L=9.86E-6 W=7.20E-6
T206 ( net230 net244 net262 vdd!)  pfet  L=9.86E-6 W=7.20E-6
T207 (net232 net72 net72 0) nfet L=6.17E-6 W=7.06E-6
R208 ( net125 net80)  R=8.1E5
T209 ( net80 net261 0 0)  nfet  L=4.34E-6 W=2.79E-6
T210 ( net222 net261 0 0)  nfet  L=4.34E-6 W=2.79E-6
T211 ( vdd! net80 net261 0)  nfet  L=4.34E-6 W=2.79E-6
R212 (net129 net233) R=0.2E5
R213 (net62 net263) R=9.6E1
C214 (net167 0) C=8.5E-12
T215 (net216 net232 net232 0) pfet L=6.00E-6 W=0.88E-6
C216 (net233 net218) C=5.6E-7
R217 ( net233 net188)  R=3.3E2
T218 ( net188 net188 vdd! vdd!)  pfet  L=7.18E-6 W=8.07E-6
T219 ( net231 net188 vdd! vdd!)  pfet  L=7.18E-6 W=8.07E-6
R220 (net162 net5) R=8.7E4
T221 (net264 net72 net72 0) nfet L=7.62E-6 W=7.41E-6
R222 (net137 vdd!) R=1.6E1
T223 (net268 vdd! vdd! 0) nfet L=6.77E-6 W=5.27E-6
C224 (net175 net241) C=1.0E-7
T225 (net26 net5 net5 0) pfet L=1.19E-6 W=6.61E-6
R226 ( net157 net202)  R=4.5E6
T227 ( net202 net202 0 0)  nfet  L=4.34E-6 W=4.83E-6
T228 ( net158 net202 0 0)  nfet  L=4.34E-6 W=4.83E-6
T229 (net3 net107 net107 0) nfet L=1.83E-6 W=4.12E-6
R230 ( net135 net201)  R=3.9E6
T231 ( net201 net63 vdd! vdd!)  pfet  L=9.71E-6 W=8.26E-6
T232 ( net211 net63 vdd! vdd!)  pfet  L=9.71E-6 W=8.26E-6
T233 ( 0 net201 net63 vdd!)  pfet  L=9.71E-6 W=8.26E-6
T234 (0 net70 net70 0) nfet L=6.67E-6 W=0.79E-6
T235 (net220 net158 net158 0) pfet L=7.82E-6 W=0.58E-6
R236 ( net162 net197)  R=7.0E0
T237 ( net197 net197 vdd! vdd!)  pfet  L=0.68E-6 W=1.28E-6
T238 ( net265 net197 vdd! vdd!)  pfet  L=0.68E-6 W=1.28E-6
T239 (net194 net147 net147 0) nfet L=5.77E-6 W=3.72E-6
R240 ( net186 net218)  R=5.8E1
T241 ( net218 net176 0 0)  nfet  L=4.91E-6 W=7.04E-6
T242 ( net273 net176 0 0)  nfet  L=4.91E-6 W=7.04E-6
T243 ( net2 net218 net273 0)  nfet  L=4.91E-6 W=7.04E-6
T244 (net67 net149 net149 0) nfet L=4.65E-6 W=3.89E-6
R245 ( net236 net5)  R=9.6E2
T246 ( net5 net5 vdd! vdd!)  pfet  L=5.47E-6 W=4.54E-6
T247 ( net69 net5 vdd! vdd!)  pfet  L=5.47E-6 W=4.54E-6
R248 (net106 net239) R=3.6E0
R249 ( net3 net152)  R=2.1E1
T250 ( net152 net146 vdd! vdd!)  pfet  L=1.21E-6 W=0.60E-6
T251 ( net124 net146 vdd! vdd!)  pfet  L=1.21E-6 W=0.60E-6
T252 ( 0 net152 net146 vdd!)  pfet  L=1.21E-6 W=0.60E-6
R253 (net206 net8) R=8.6E2
C254 (net124 net10) C=7.0E-7
R255 ( net84 net210)  R=3.0E4
T256 ( net210 net118 vdd! vdd!)  pfet  L=7.19E-6 W=5.42E-6
T257 ( net205 net118 vdd! vdd!)  pfet  L=7.19E-6 W=5.42E-6
T258 ( net36 net210 net205 vdd!)  pfet  L=7.19E-6 W=5.42E-6
C259 (net266 net217) C=5.0E-12
R260 ( vdd! net92)  R=0.2E0
T261 ( net92 net163 0 0)  nfet  L=2.97E-6 W=0.64E-6
T262 ( net274 net163 0 0)  nfet  L=2.97E-6 W=0.64E-6
T263 ( net84 net92 net274 0)  nfet  L=2.97E-6 W=0.64E-6
T264 (net50 net60 net60 0) nfet L=7.41E-6 W=5.03E-6
R265 ( net10 net212)  R=9.3E1
T266 ( net212 net230 vdd! vdd!)  pfet  L=0.26E-6 W=2.95E-6
T267 ( net1 net230 vdd! vdd!)  pfet  L=0.26E-6 W=2.95E-6
T268 ( 0 net212 net230 vdd!)  pfet  L=0.26E-6 W=2.95E-6
T269 (net23 net154 net154 0) pfet L=8.57E-6 W=9.45E-6
T270 (vdd! net49 net49 0) pfet L=2.85E-6 W=5.02E-6
R271 ( net120 net1)  R=9.2E4
T272 ( net1 net275 0 0)  nfet  L=6.86E-6 W=7.41E-6
T273 ( net147 net275 0 0)  nfet  L=6.86E-6 W=7.41E-6
T274 ( net169 net1 net147 0)  nfet  L=6.86E-6 W=7.41E-6
T275 (0 net272 net272 0) nfet L=2.67E-6 W=8.60E-6
R276 ( net85 net11)  R=3.7E1
T277 ( net11 net154 0 0)  nfet  L=3.97E-6 W=1.10E-6
T278 ( net264 net154 0 0)  nfet  L=3.97E-6 W=1.10E-6
T279 ( vdd! net11 net154 0)  nfet  L=3.97E-6 W=1.10E-6
C280 (net149 net46) C=3.9E-10
R281 ( net217 net269)  R=6.3E1
T282 ( net269 net269 0 0)  nfet  L=0.21E-6 W=3.77E-6
T283 ( net223 net269 0 0)  nfet  L=0.21E-6 W=3.77E-6
T284 (net216 net159 net159 0) pfet L=1.24E-6 W=2.50E-6
T285 (net48 vdd! vdd! 0) pfet L=6.42E-6 W=7.64E-6
T286 (0 net276 net276 0) pfet L=7.95E-6 W=8.33E-6
T287 (vdd! vdd! vdd! 0) nfet L=4.50E-6 W=8.40E-6
T288 (net71 net44 net44 0) nfet L=8.83E-6 W=7.49E-6
T289 (net224 net265 net265 0) nfet L=8.61E-6 W=4.75E-6
C290 (net57 net161) C=2.6E-6
T291 (net194 net10 net10 0) pfet L=9.15E-6 W=8.13E-6
T292 (net65 net84 net84 0) nfet L=0.78E-6 W=1.48E-6
T293 (net18 net254 net254 0) nfet L=4.49E-6 W=6.04E-6
T294 (net224 net139 net139 0) pfet L=7.80E-6 W=8.07E-6
T295 (net115 net245 net245 0) pfet L=5.25E-6 W=2.38E-6
T296 (vdd! net161 net161 0) nfet L=0.32E-6 W=2.11E-6
R297 (net182 0) R=6.1E1
T298 (net267 net222 net222 0) pfet L=1.18E-6 W=1.74E-6
C299 (vdd! net8) C=3.7E-13
T300 (net18 net102 net102 0) pfet L=2.93E-6 W=8.02E-6
T301 (net215 net179 net179 0) pfet L=4.00E-6 W=0.15E-6
C302 (net241 net238) C=4.5E-7
C303 (net164 net257) C=4.9E-5
R304 (net61 net276) R=5.4E6
T305 (0 net200 net200 0) pfet L=8.07E-6 W=1.41E-6
T306 (net173 net233 net233 0) nfet L=4.44E-6 W=5.15E-6
T307 (net162 net46 net46 0) nfet L=1.87E-6 W=6.53E-6
R308 (net139 net234) R=6.0E3
T309 (net121 net257 net257 0) nfet L=3.29E-6 W=5.80E-6
C310 (0 net164) C=9.3E-5
R311 (net10 0) R=5.0E2
T312 (net62 net222 net222 0) nfet L=8.17E-6 W=4.52E-6
R313 (net115 net270) R=5.7E4
C314 (net237 net162) C=9.0E-8
C315 (net183 net209) C=2.3E-6
T316 (net215 vdd! vdd! 0) pfet L=7.65E-6 W=8.14E-6
T317 (net107 net237 net237 0) pfet L=6.59E-6 W=8.70E-6
T318 (net194 net267 net267 0) nfet L=9.33E-6 W=5.33E-6
T319 (net194 net113 net113 0) pfet L=2.85E-6 W=9.90E-6
R320 (net38 net24) R=8.6E6
T321 (net279 net94 net94 0) nfet L=4.93E-6 W=6.89E-6
C322 (net151 net71) C=1.5E-10

